US04804400
Preparation of N-(2-fluoro-4-nitro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide (intermediate)
26.3 g of N-(2-fluoro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide are introduced in portions, at 5°, into 230 ml of 96% sulphuric acid. There is then added dropwise to this mixture, while stirring vigorously at the same temperature, 5 ml of 100% nitric acid. The whole is further stirred overnight at room temperature and then poured into ice. The product which precipitates is filtered with suction, washed with water, dried and recrystallised from acetonitrile. 28 g of N-(2-fluoro-5-carboxy-4-nitrophenyl)-2,3-dimethylmaleic acid imide which has a melting point of 264°-265° is thus obtained.

reactant | N-(2-fluoro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide | 26.3 g | FC1=C(C=C(C=C1)C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H10FNO4
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 230 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-fluoro-4-nitro-5-carboxyphenyl)-2,3-dimethylmaleic acid imide | FC1=C(C=C(C(=C1)[N+](=O)[O-])C(=O)O)N1C(C(=C(C1=O)C)C)=O | C13H9FN2O6
